US08557805B2
N-[(2S)-2-Hydroxypropyl]-2-[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide
To a solution of [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (300 mg) and (S)-(+)-1-amino-2-propanol (78 mg) in N,N-dimethylformamide (20 mL)were added 1-hydroxybenzotriazole (137 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (194 mg) under ice-cooling, and the mixture was stirred under ice-cooling and then at room temperature for 15 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained pale-yellow crystals were recrystallized from tetrahydrofuran-ethyl acetate to give the title compound (230 mg, yield 68%) as colorless crystals.

reactant | [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 300 mg | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C20H19N3O5S2
reactant | (S)-(+)-1-amino-2-propanol | 78 mg | NC[C@H](C)O | C3H9NO
reactant | 1-hydroxybenzotriazole | 137 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 194 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[(2S)-2-Hydroxypropyl]-2-[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide | 230 mg, yield 68% | O[C@H](CNC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)C)=O)C | C23H26N4O5S2
